US04251660
The reactions of Examples 1 and 2 are repeated with equimolar quantities of N-hydroxyethylbenzylamine hydrochloride or N-chloroethylbenzylamine hydrochloride to give 1,2,3,4-tetrahydroisoquinoline. The use of N-chloroethyl-2,3-dichlorobenzylamine as the base gives good yields of 7,8-dichlorol,2,3,4-tetrahydroisoquinoline.

reactant | N-hydroxyethylbenzylamine hydrochloride | Cl.OCCNCC1=CC=CC=C1
reactant | N-chloroethylbenzylamine hydrochloride | Cl.ClCCNCC1=CC=CC=C1
product | 1,2,3,4-tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
